US04892578
Synthesis of 2-[[2-chloro-4-[(2-hydroxyphenyl)-methylimino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone (Compound 71)
A warmed solution of 0.48 gram (0.004 mole) of salicylaldehyde in 35 mL of ethanol was stirred, and 1.0 gram (0.004 mole) of 2-[(4-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone was added in one portion. The reaction mixture was heated an additional 30 minutes and then 15 mL of water was added. The mixture was filtered, and the filtrate was cooled. The resultant oily suspension solidified when abraded. The solid was collected by filtration to yield, when dried, 0.87 gram of 2-[[2-chloro-4-[(2-hydroxyphenyl)methylimino]phenyl]-methyl]-4,4-dimethyl-3-isoxazolidinone; m.p. 105°-107° C.

reactant | salicylaldehyde | 0.004 mole, 0.48 gram | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 2-[(4-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.004 mole, 1.0 gram | NC1=CC(=C(C=C1)CN1OCC(C1=O)(C)C)Cl | C12H15ClN2O2
reactant | water | 15 mL | O | H2O
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-[[2-chloro-4-[(2-hydroxyphenyl)-methylimino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone | ClC1=C(C=CC(C1)=NCC1=C(C=CC=C1)O)CN1OCC(C1=O)(C)C | C19H21ClN2O3
